US05032165
Preparation of 2-[5-(4-chloro-1-methyl-5-methylthio-1H-pyrazol-3-yl)-2,4-dichlorophenylthio]propionic acid (compound No. 25)
After addition of NaOH (0.31 g, in pellet form, 95% content) to a solution of ethyl 2-[5-(4-chloro-1-methyl-5-methylthio-1H-pyrazol-3-yl)-2,4-dichlorophenylthio]propionate (2.28 g, 5.18 mmoles) in 50 ml ethanol, several drops of water added, thereby conducting the reaction for 3 hours at room temperature. Then the solvent was removed by evaporation of the resulting solution under reduced pressure. Water and ethyl acetate were added to the residue and the formed aqueous layer was separated. The aqueous layer was acidified with hydrochloric acid. The objective product was extracted from the aqueous layer with ethyl acetate. The extract solution was washed with water, dehydrated, and evaporated to dryness, giving crystals (1.74 g) of the title compound, m.p. 180.0° C., yield 81.6%.

reactant | NaOH | 0.31 g | [OH-].[Na+]
reactant | ethyl 2-[5-(4-chloro-1-methyl-5-methylthio-1H-pyrazol-3-yl)-2,4-dichlorophenylthio]propionate | 5.18 mmoles, 2.28 g | ClC=1C(=NN(C1SC)C)C=1C(=CC(=C(C1)SC(C(=O)OCC)C)Cl)Cl | C16H17Cl3N2O2S2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | water | several drops | O | H2O
product | 2-[5-(4-chloro-1-methyl-5-methylthio-1H-pyrazol-3-yl)-2,4-dichlorophenylthio]propionic acid | 1.74 g, yield 81.6% | ClC=1C(=NN(C1SC)C)C=1C(=CC(=C(C1)SC(C(=O)O)C)Cl)Cl | C14H13Cl3N2O2S2
